US05114958
A suspension of guanidine hydrochloride (197 mg, 2.06 mmols) and potassium t-butoxide (150 mg, 1.33 mmols) in 10 mL of t-butanol is heated to 40° C. 2,6-Dichloro-3-methyl-N-[2-[5-[(4-methylphenyl)-sulfonyl]-1,2,4-thiadiazol-3-yl]phenyl]benzenamine (200 mg, 0.41 mmols), prepared as described in Example 2, is added and heating is continued at 55° C. for 10 minutes. The solution is cooled to room temperature, poured into ether, and washed with water followed by brine. The organic layer is dried over magnesium sulfate, filtered, and concentrated to 10 mL. A few drops of methanol saturated with HCl are added. The resultant precipitate is collected by filtration, providing 84 mg (48%) of 3-[2-[2,6-dichloro-3-methylphenyl)amino]phenyl]-1,2,4-thiadiazol-5-yl guanidine, monohydrochloride as a white solid; mp 268°-277° C.

reactant | guanidine hydrochloride | 2.06 mmols, 197 mg | Cl.NC(=N)N
reactant | potassium t-butoxide | 1.33 mmols, 150 mg | CC(C)([O-])C.[K+]
reactant | 2,6-Dichloro-3-methyl-N-[2-[5-[(4-methylphenyl)-sulfonyl]-1,2,4-thiadiazol-3-yl]phenyl]benzenamine | 0.41 mmols, 200 mg | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C1=NSC(=N1)S(=O)(=O)C1=CC=C(C=C1)C | C22H17Cl2N3O2S2
reactant | ether | CCOCC | C4H10O
solvent | t-butanol | 10 mL | C(C)(C)(C)O | C4H10O
product | 1,2,4-thiadiazol-5-yl guanidine, monohydrochloride | Cl.S1N=CN=C1NC(=N)N | InChI=1S/C3H5N5S.ClH/c4-2(5)8-3-6-1-7-9-3;/h1H,(H4,4,5,6,7,8);1H
